US04872901
5,7-Dimethoxy-2-(1,3-dimethyl-4-methoxycarbonyl-5- pyrazolesulfonyl)imino-2H-1,2,4-thiadiazolo[2,3-a]pyrimidine (Compound No. 1)
To 50 ml of pyridine is added 4.3 g of N-(1,3-dimethyl-4-methoxycarbonyl-5-pyrazolesulfonyl)-N'(4,6-dimethoxy-2-pyrimidinyl)thiourea, and to the mixture is added 1.6 g of bromine while cooling at -6° C. to -8° C. After stirring at the same temperature for 1.5 hours, the reaction mixture is poured into 300 ml of water. The resulting crystals are filtered, washed with water, and dried. Recrystallization from acetonitrile gives 2.8 g of the title compound as colorless crystals

reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | N-(1,3-dimethyl-4-methoxycarbonyl-5-pyrazolesulfonyl)-N'(4,6-dimethoxy-2-pyrimidinyl)thiourea | 4.3 g | CN1N=C(C(=C1S(=O)(=O)NC(=S)NC1=NC(=CC(=N1)OC)OC)C(=O)OC)C | C14H18N6O6S2
reactant | bromine | 1.6 g | BrBr | Br2
solvent | water | 300 ml | O | H2O
product | 5,7-Dimethoxy-2-(1,3-dimethyl-4-methoxycarbonyl-5- pyrazolesulfonyl)imino-2H-1,2,4-thiadiazolo[2,3-a]pyrimidine | 2.8 g | COC1=NC=2N(C(=C1)OC)SC(N2)=NS(=O)(=O)C2=C(C(=NN2C)C)C(=O)OC | C14H16N6O6S2
